US06399773B1
1-(2-Methoxy-4-nitrophenyl)-1H-imidazole
A solution of 2-chloro-5-nitroanisole (1.0 g, 5.33 mmol), KOH (0.438 g, 7.81 mmol) and imidazole (1.45 g, 21.3 mmol) in DMSO (5 mL) was heated to 80° C. for three hours. The reaction mixture was poured into ice water. The precipitate was collected and washed with water to afford the title compound (0.75 g, 64%). 1H NMR (CDCl3): δ8.84 (1H, s), 8.07 (2H, m), 7.66 (1H, d), 7.55 (1H, s), 7.44 (1H, s), 4.09 (3H, s); LC-MS: m/z 220.07 (M+H)+

reactant | 2-chloro-5-nitroanisole | 5.33 mmol, 1.0 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | KOH | 7.81 mmol, 0.438 g | [OH-].[K+]
reactant | imidazole | 21.3 mmol, 1.45 g | N1C=NC=C1 | C3H4N2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-(2-Methoxy-4-nitrophenyl)-1H-imidazole | 0.75 g, 64% | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC=C1 | C10H9N3O3
